US03997549
A solution of 6.75 of sulfuryl chloride in 20 ml of benzene was added dropwise, with vigorous stirring under nitrogen, to a solution of 8.4 g of 2-mercaptobenzothiazole in 150 ml of benzene. The mixture was heated slowly to reflux and maintained under gentle reflux until evolution of hydrogen chloride had ceased. A solution of 11 g of carbofuran in 150 ml of pyridine was added dropwise and the mixture stirred for two hours at reflux under nitrogen. The mixture was poured into water. The organic phase was separated, washed with dilute hydrochloric acid, water and saturated aqueous sodium chloride, then dried. The dry solution was concentrated under reduced pressure and the residue recrystallized from ethanol to give 2,3-dihydro-2,2-dimethyl-7-benzofuranyl (2-benzothiazolylthio)(methyl)carbamate, m.p. 92°-3°. Recrystallization from hexane-benzene increased the melting point to 97°. The n.m.r. spectrum was consistent with the assigned structure.

reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-mercaptobenzothiazole | 8.4 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | hydrogen chloride | Cl | ClH
reactant | carbofuran | 11 g | CC1(CC2=CC=CC(=C2O1)OC(=O)NC)C | C12H15NO3
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 2,3-dihydro-2,2-dimethyl-7-benzofuranyl (2-benzothiazolylthio)(methyl)carbamate | S1C(=NC2=C1C=CC=C2)SN(C(OC2=CC=CC=1CC(OC12)(C)C)=O)C | C19H18N2O3S2
